US07012075B2
To 1,4-dibromobenzene (16.1 g, 68.25 mmol), L-leucine (2.984 g, 22.75 mmol), potassium carbonate (4.71 g, 34.13 mmol), and copper iodide (650 mg, 3.41 mmol) was added dry DMA (N,N-dimethylacetamide, 100 mL). The reaction flask was thoroughly degassed with dry nitrogen and heated at 95° C. for 3 days. Water and hexane were added and the organic phase was separated and discarded (to remove excess 1,4-dibromobenzene). The pH of the aqueous phase was adjusted to 3 and the product was extracted with EtOAc (3×), dried on Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex/AcOH, 3/7/1% then 4/6/1%) to afford (2S)-2-(4-bromoanilino)-4-methylpentanoic acid.

reactant | 1,4-dibromobenzene | 68.25 mmol, 16.1 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | L-leucine | 22.75 mmol, 2.984 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | potassium carbonate | 34.13 mmol, 4.71 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper iodide | 3.41 mmol, 650 mg | [Cu](I)I
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
product | (2S)-2-(4-bromoanilino)-4-methylpentanoic acid | BrC1=CC=C(N[C@H](C(=O)O)CC(C)C)C=C1 | C12H16BrNO2
